US07435837B2
Treatment of 4-chloro-2-isopropyl-5-methylphenol (10.00 g, 0.054 mol) with potassium carbonate (29.94 g, 0.217 mol) and allyl bromide (7.86 g, 0.065 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 8.92 g (73%) of 2-allyl-4-chloro-6-isopropyl-3-methylphenol as a colorless oil. Rf=0.85 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C13H17ClO: C, 69.48; H, 7.62. Found: C, 69.87; H, 7.43.

reactant | 4-chloro-2-isopropyl-5-methylphenol | 0.054 mol, 10.00 g | ClC1=CC(=C(C=C1C)O)C(C)C | C10H13ClO
reactant | potassium carbonate | 0.217 mol, 29.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.065 mol, 7.86 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-allyl-4-chloro-6-isopropyl-3-methylphenol | 8.92 g, 73% | C(C=C)C1=C(C(=CC(=C1C)Cl)C(C)C)O | C13H17ClO
